US07585885B2
(2R,4R)-4-Benzyloxy-2-formylpyrrolidine-1-carboxylic acid tert-butyl ester
Add triethylamine (1.1 mL, 7.79 mmol) and sulfurtrioxide-pyridine complex (0.63 g, 3.89 mmol) to an ice cold solution of (2R,4R)-4-benzyloxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.6 g, 1.95 mmol) in dimethyl sulfoxide (2 mL). Stir 30 minutes, warm to room temperature and stir 30 minutes. Dilute with ethyl ether and wash with 5% aqueous citric acid (3×120 mL), saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound as an oil (0.59 g, 100%).

reactant | triethylamine | 7.79 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | (2R,4R)-4-benzyloxy-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.95 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC=CC=C1)CO | C17H25NO4
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl ether | C(C)OCC | C4H10O
product | (2R,4R)-4-Benzyloxy-2-formylpyrrolidine-1-carboxylic acid tert-butyl ester | 0.59 g, 100% | C(C)(C)(C)OC(=O)N1[C@H](C[C@H](C1)OCC1=CC=CC=C1)C=O | C17H23NO4
